US07179801B2
To a suspension of lithium aluminum hydride (7.6 g) in tetrahydrofuran (300 ml) was added 3-(4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propionamide (10 g) at room temperature. The mixture was stirred under reflux for 2 days. After cooling on an ice bath, potassium fluoride (34 g) and water (10 ml) were added to the reaction mixture. The insoluble materials were removed by filtration. To the filtrate were added 10% aqueous sodium carbonate solution (100 ml) and di-tert-butyl dicarbonate (20.0 g). The mixture was stirred at room temperature for 1 hour. After evaporation of the solvent in vacuo, the residue was dissolved in chloroform. The solution was washed with water, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. To the oily residue were added methanol (100 ml) and 4 mol/l hydrogen chloride solution in dioxane (50 ml), and the mixture was stirred under reflux for 30 minutes. The reaction mixture was concentrated in vacuo to give crude 3-(4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propylamine (7.0 g) as an oil. This product was used in the next step without further purification.

reactant | lithium aluminum hydride | 7.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propionamide | 10 g | N1=CC(=C2N1CCCN2)CCC(=O)N | C9H14N4O
reactant | potassium fluoride | 34 g | [F-].[K+]
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-(4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propylamine | 7.0 g | N1=CC(=C2N1CCCN2)CCCN | C9H16N4
